US05166164
Synthesis of N-[(2-chloro-5-thiazolyl)methyl]-N'-methyl-N"-nitroguanidine
A mixture of 0.48 g of 2-chloro-5-thiazolemethanamine, 0.31 g of S-methyl-N-methyl-N'-nitroisothiourea prepared by the method described in the Journal of Medical Chemistry., 1977, Vol. 20, No. 7, P. 905 and 3 ml of ethanol was heated under reflux for 6 hours. After cooling, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (Solvent: Chloroform/Methanol =20/1) to obtain 0.37 g of the title compound as crystals. This compound is No. 8 in Table 1. m.p.: 151.0°-153.0° C.

reactant | 2-chloro-5-thiazolemethanamine | 0.48 g | ClC=1SC(=CN1)CN | C4H5ClN2S
reactant | S-methyl-N-methyl-N'-nitroisothiourea | 0.31 g | CSC(NC)=N[N+](=O)[O-] | C3H7N3O2S
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-[(2-chloro-5-thiazolyl)methyl]-N'-methyl-N"-nitroguanidine | 0.37 g | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8ClN5O2S
